US08030305B2
3-Pyridin-4-ylmethyl-6-thiophen-2-yl-[1,2,4]triazolo[4,3-b]pyridazine
The title compound was prepared as described in Example 17 from 4-pyridineacetic acid hydrazide (1.81 mmol) and 3-chloro-6-thiophen-2-yl-pyridazine (0.58 mmol) as a pale yellow solid. 1H NMR (CD3OD) δ 8.50 (2H dd, J=4.6 Hz, 1.4 Hz), 8.22 (1H d, J=9.6 Hz), 7.94 (1H, dd, J=3.8 Hz, 1.2 Hz), 7.93 (1H, d, J=9.8 Hz), 7.74 (1H, dd, J=5.0 Hz, 1.0 Hz), 7.52 (2H, m), 7.23 (1H, dd, J=5.3 Hz, 3.8 Hz), 4.69 (2H, s). ESI-MS (m/z): Calcd for C15H11N5S: 293.1; found 294.2 (M+H).

reactant | 4-pyridineacetic acid hydrazide | 1.81 mmol | N1=CC=C(C=C1)CC(=O)NN | C7H9N3O
reactant | 3-chloro-6-thiophen-2-yl-pyridazine | 0.58 mmol | ClC=1N=NC(=CC1)C=1SC=CC1 | C8H5ClN2S
product | 3-Pyridin-4-ylmethyl-6-thiophen-2-yl-[1,2,4]triazolo[4,3-b]pyridazine | N1=CC=C(C=C1)CC1=NN=C2N1N=C(C=C2)C=2SC=CC2 | C15H11N5S
